US06482932B1
Synthesis of 2′-(N-Lysyl)amino-2′-deoxy-cytidine Triphosphate
2′-(N-lysyl)amino 2′-deoxy cytidine (0.180 g, 0.22 mmol) was dissolved in triethyl phosphate (2.00 ml) under Ar. The solution was cooled to 0° C. in an ice bath. Phosphorus oxychloride (99.999%, 3 eq., 0.0672 mL) was added to the solution and the reaction was stirred for two hours at 0° C. Tributylammonium pyrophosphate (4 eq., 0.400 g) was dissolved in 3.42 mL of acetonitrile and tribuytylamine (0.165 mL). Acetonitrile (1 mL) was added to the monophosphate solution followed by the pyrophosphate solution which was added dropwise. The solution was clear. The reaction was allowed to warm up to room temperature. After stirring for 45 minutes, methyl amine (5 mL) was added and the reaction and stirred at room temperature for 2 hours. A two phase mixture appeared (little beads at the bottom of the flask). TLC (7:1:2 iPrOH:NH4OH:H2O) showed the appearance of a triphosphate material. The solution was concentrated, dissolved in water and loaded on a newly prepared DEAE Sephadex A-25 column. The column was washed with a gradiant up to 0.6 M TEAB buffer and the product eluted off in fractions 90-95. The fractions were analyzed by ion exchange HPLC. Each fraction showed one triphosphate peak that eluted at ˜4.000 minutes. The fractions were combined and pumped down from methanol to remove buffer salt to yield 15.7 mgs of product.

reactant | 2′-(N-lysyl)amino 2′-deoxy cytidine | 0.22 mmol, 0.180 g | N[C@@H](CCCCN)C(=O)N[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C15H26N6O5
reactant | Phosphorus oxychloride | 0.0672 mL, 3 eq. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Tributylammonium pyrophosphate | 0.400 g, 4 eq. | [O-]P([O-])(=O)OP(=O)([O-])[O-].C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC
reactant | pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-]
reactant | methyl amine | 5 mL | CN | CH5N
reactant | NH4OH | [NH4+].[OH-]
reactant | triphosphate | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-]
reactant | H2O | O | H2O
solvent | triethyl phosphate | 2.00 ml | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | acetonitrile | 3.42 mL | C(C)#N | C2H3N
solvent | Acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | iPrOH | CC(C)O | C3H8O
product | 2′-(N-Lysyl)amino-2′-deoxy-cytidine Triphosphate | 15.7 mgs | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(N)C=C1)NC([C@@H](N)CCCCN)=O)O | C15H29N6O14P3
